US08039490B2
Step 2: 5-(4-Methyl-piperazin-1-yl)-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
5-Bromo-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide (80 mg, 0.15 mmol) and 1-methylpiperazine (31 μl, 0.28 mmol) were dissolved in 2 ml dioxane. 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (9 mg, 0.016 mmol), cesium carbonate (76 mg, 0.23 mmol), water (1 μl, 0.078 mmol) and tri(dibenzylideneacetone)dipalladium chloroform complex (8 mg, 0.008 mmol) were added and the reaction mixture was stirred for 16 hrs at 110° C. The reaction mixture was then evaporated and purified by flash chromatography on silica gel (dichloromethane/methanol 100:0->90:10 gradient). The desired product was obtained as a light red solid (33 mg, 40%), MS: m/e=536.0 (M+H+).

reactant | 5-Bromo-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | 0.15 mmol, 80 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC(CC2)NC(=O)C2=NC=C(C=C2)Br)C=C1 | C26H31BrFN3O2
reactant | 1-methylpiperazine | 0.28 mmol, 31 μl | CN1CCNCC1 | C5H12N2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.016 mmol, 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.23 mmol, 76 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 0.078 mmol, 1 μl | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Methyl-piperazin-1-yl)-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC(CC2)NC(=O)C2=NC=C(C=C2)N2CCN(CC2)C)C=C1 | C31H42FN5O2
